### PR TITLE
[Merged by Bors] - perf: make `Decidable Injective` approximately twice as fast

### PR DESCRIPTION
**Pull request by lambda-fairy**
The existing implementation takes the definition (`∀ x y, f x = f y → x = y`) directly. This is suboptimal because:

1. Every pair of values is checked twice (both `(x, y)` and `(y, x)`)
2. The diagonals `(x, x)` are checked redundantly
3. The outputs of `f` are not cached, which might be a problem if `f` is expensive

This PR proposes a new implementation of `Decidable Injective` and `Decidable InjOn`. It collects the outputs in a `Multiset`, then decides `Multiset.Nodup`. Because `Nodup` is built upon `List.Pairwise`, which only checks unordered non-diagonal pairs, the above problems are addressed automatically.

This also allows for dropping `DecidableEq` on the input type, as that was to work around the diagonal case.

Thank you @edegeltje and @plp127 for suggesting `List.Pairwise`, and many other people in the [Zulip thread] for the discussion around `Sym2` (which ended up being unused here, but was still valuable).

[Zulip thread]: https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Idea.3A.20Helper.20for.20speeding.20up.20Decidable.20on.20symmetric.20props

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by lambda-fairy** [comment]
What's the standard way to benchmark a theorem?

I did a quick test with the snippet below, and did confirm that the old code is ~ 2x slower, but it would be nice to be more precise about this.

```lean
def testFn (i : Fin 100) : Fin 100 := i + 42

set_option maxRecDepth 100000 in
example : Function.Injective testFn := by decide
```

File: Mathlib/Data/Finset/Insert.lean [hunk 1]
```diff
@@ -698,4 +698,25 @@ theorem pairwise_cons {a : α} (ha : a ∉ s) (r : α → α → Prop) :
...
+
+variable {f : α → β} {s : Finset α} {t : Finset β}
+
+variable (f s) in
+/-- A function `f` is injective on a finset `s` if and only if the image has no duplicates. -/
+theorem injOn_iff_nodup_map : Set.InjOn f s ↔ (Multiset.map f s.val).Nodup := by
+  induction s using cons_induction with
+  | empty => simp
+  | cons x xs hx h =>
+    simp [Set.injOn_insert (show x ∉ (xs : Set α) by simpa)]
```
Comment (grunweg) [inline Mathlib/Data/Finset/Insert.lean:711]: Can this become `simpa [...] using by tauto`? (Optional.)

File: Mathlib/Data/Finset/Insert.lean [hunk 2]
```diff
@@ -698,4 +698,25 @@ theorem pairwise_cons {a : α} (ha : a ∉ s) (r : α → α → Prop) :
...
+    tauto
+
+instance [DecidableEq β] : Decidable (Set.InjOn f s) :=
```
Comment (grunweg) [inline Mathlib/Data/Finset/Insert.lean:714]: Can you please add a comment that you're using this particular implementation for performance reasons?

**Review by grunweg — COMMENTED** [review]
A few comments: the implementation looks straightforward; I haven't really thought if there are better options.

File: Mathlib/Data/Finset/Insert.lean (hunk 1 above)
Comment (lambda-fairy) [reply Mathlib/Data/Finset/Insert.lean]: Even better, I found an existing mathlib lemma that proves this already!

**Comment by lambda-fairy** [comment]
Fixed conflicts from #21831.

**Comment by grunweg** [comment]
Do we want better benchmarking to confirm this? Otherwise, this looks good to me. Thanks for PRing it!
maintainer merge?

**Review by j-loreaux — COMMENTED** [review]
While this seems straightforward and the benefit is self-evident, I'm hesitant to merge this myself because I don't know if it's possible to create diamonds here. Of course, it's a `Subsingleton`, so it shouldn't be too much of an issue, but I want to be sure. For that reason:

maintainer merge

**Comment by urkud** [comment]
It's a pity we can't have a more efficient implementation if the codomain is a `LinearOrder` (this would create a non-defeq diamond).
Thanks!
bors merge

**Comment by lambda-fairy** [comment]
With [this code](https://github.com/lambda-fairy/taleve/blob/aa957300ca3364f0c54e1fcd76501da0142d4600/Taleve/Config.lean#L147-L150) and [this commit](https://github.com/lambda-fairy/taleve/commit/aa957300ca3364f0c54e1fcd76501da0142d4600)

```lean4
set_option profiler true in
set_option profiler.threshold 10 in
theorem pieces_injective_of_ne_O {p : Piece} (hp : p ≠ .O) : Function.Injective (pieces p) := by
  cases p
  case O => contradiction
  all_goals decide
```

Before:

```
tactic execution of Lean.Parser.Tactic.decide took 79.6ms
tactic execution of Lean.Parser.Tactic.decide took 79.2ms
tactic execution of Lean.Parser.Tactic.decide took 69.8ms
tactic execution of Lean.Parser.Tactic.decide took 69.8ms
tactic execution of Lean.Parser.Tactic.decide took 70.9ms
tactic execution of Lean.Parser.Tactic.decide took 70.1ms
tactic execution of Lean.Parser.Tactic.tacticSeq1Indented took 14.1ms
type checking took 782ms
```

After:

```
tactic execution of Lean.Parser.Tactic.decide took 35.3ms
tactic execution of Lean.Parser.Tactic.decide took 28.9ms
tactic execution of Lean.Parser.Tactic.decide took 16.2ms
tactic execution of Lean.Parser.Tactic.decide took 15.5ms
tactic execution of Lean.Parser.Tactic.decide took 14.9ms
tactic execution of Lean.Parser.Tactic.decide took 15.1ms
type checking took 170ms
```

So I'm very happy with this change 😄
